US07410981B2
Diethyl 3-(methylamino)propane-1,2-diyl biscarbonate hydrochloride
To a mixture of tert-butyl(2,3-dihydroxypropyl)methylcarbamate (15.53 g) obtained in Reference Example 45 and ethyl acetate (100 mL) were added pyridine (18.35 mL) and ethyl chlorocarbonate (24.62 g) under ice-cooling, and the mixture was stirred at room temperature for 96 hrs. Ethyl acetate (300 mL) was added to the reaction 1 mixture, and the mixture was washed with water (150 mL), an aqueous copper sulfate solution (100 mL), water (100 mL) and saturated brine (100 mL), and dried over anhydrous sodium sulfate. After concentration under reduced pressure, the residue was purified by silica gel column chromatography (eluted with ethyl acetate:hexane=1:6). To the purified product was added a 4N hydrogen chloride-ethyl acetate solution (80 mL), and the mixture was stirred at room temperature for 3 hrs. Diethyl ether (200 mL) was added, and the precipitated solid was collected by filtration. The solid was dried under reduced pressure to give the title compound (5.93 g) as a white solid.

reactant | tert-butyl(2,3-dihydroxypropyl)methylcarbamate | 15.53 g | C(C)(C)(C)OC(N(C)CC(CO)O)=O | C9H19NO4
reactant | pyridine | 18.35 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl chlorocarbonate | 24.62 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | Ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | Diethyl 3-(methylamino)propane-1,2-diyl biscarbonate hydrochloride | 5.93 g | Cl.C(OCC)(OCC(CNC)OC(OCC)=O)=O | InChI=1S/C10H19NO6.ClH/c1-4-14-9(12)16-7-8(6-11-3)17-10(13)15-5-2;/h8,11H,4-7H2,1-3H3;1H
